US07884210B2
To a solution of (2-amino-thiazol-4-yl)-acetic acid ethyl ester (1.0 mmol) and cyclopentylmethyl-(3,4-difluoro-phenyl)-amine (1.0 mmol) in dry toluene (10 mL) was added CDI (1.5 mmol) and DMAP (0.05 mmol). The mixture was stirred at 60° C. for 3H an then evaporated to dryness in vacuo. The crude product was purified on silica gel (gradient, from heptane:ethyl acetate (10:1) to heptane:ethyl acetate (3:1)) to give {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester.

reactant | (2-amino-thiazol-4-yl)-acetic acid ethyl ester | 1.0 mmol | C(C)OC(CC=1N=C(SC1)N)=O | C7H10N2O2S
reactant | cyclopentylmethyl-(3,4-difluoro-phenyl)-amine | 1.0 mmol | C1(CCCC1)CNC1=CC(=C(C=C1)F)F | C12H15F2N
reactant | CDI | 1.5 mmol | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
catalyst | DMAP | 0.05 mmol | CN(C)C=1C=CN=CC1 | C7H10N2
product | {2-[3-cyclopentylmethyl-3-(3,4-difluoro-phenyl)-ureido]-thiazol-4-yl}-acetic acid ethyl ester | C(C)OC(CC=1N=C(SC1)NC(=O)N(C1=CC(=C(C=C1)F)F)CC1CCCC1)=O | C20H23F2N3O3S
